US04508725
A mixture of 575 g diethyl glutamate and 700 ml concentrated ammonium hydroxide was stirred for 10 hours, and kept in the freezer at (-20° C.) for 5 hours. The resulting white crystalline solid was filtered, washed with 500 ml ethanol followed by 200 ml ether and dried in a vacuum oven at 70° C. for 16 hours to remove the water of crystallization giving 270 g (78.6%) of white crystalline 2-pyrrolidone-5-carboxamide.

reactant | diethyl glutamate | 575 g | N[C@@H](CCC(=O)OCC)C(=O)OCC | C9H17NO4
reactant | ammonium hydroxide | 700 ml | [OH-].[NH4+]
product | 2-pyrrolidone-5-carboxamide | 270 g, 78.6% | N1C(CCC1C(=O)N)=O | C5H8N2O2
